US07700628B2
G. 2-[4-(tert-Butyl)-2-(piperidin-4-yloxy)benzoylamino]-4-chloro-N-(5-chloro-pyridin-2-yl)benzamide hydrochloride
2-[4-(tert-Butyl)-2-(1-Boc-piperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)-4-chlorobenzamide (0.4 g, 0.64 mmol) was dissolved in 4 N HCl/p-dioxane (15 mL). After stirring for 30 min, the solution was concentrated in vacuo and the residue was purified by RPHPLC, eluting with a gradient of 20% through 60% acetonitrile in 0.05% aq HCl over 320 min. The clean product containing fractions were combined, partially concentrated and lypholyzed to give 0.0864 g (23%) of white solid.

reactant | 2-[4-(tert-Butyl)-2-(1-Boc-piperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)-4-chlorobenzamide | 0.64 mmol, 0.4 g | C(C)(C)(C)C1=CC(=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=CC(=C2)Cl)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C33H38Cl2N4O5
solvent | HCl p-dioxane | 4 N, 15 mL | Cl.O1CCOCC1
product | 2-[4-(tert-Butyl)-2-(piperidin-4-yloxy)benzoylamino]-4-chloro-N-(5-chloro-pyridin-2-yl)benzamide hydrochloride | 0.0864 g, 23% | Cl.C(C)(C)(C)C1=CC(=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=CC(=C2)Cl)C=C1)OC1CCNCC1 | InChI=1S/C28H30Cl2N4O3.ClH/c1-28(2,3)17-4-7-22(24(14-17)37-20-10-12-31-13-11-20)27(36)33-23-15-18(29)5-8-21(23)26(35)34-25-9-6-19(30)16-32-25;/h4-9,14-16,20,31H,10-13H2,1-3H3,(H,33,36)(H,32,34,35);1H
